US05395934
5Chloro-2-methyl-4-{3-[N-[2-(3,4,5-trimethoxyphenyl)-ethyl]-N-methylamino]-propylamino}-3(2H)-pyridazinone
On starting from 5-chloro-4-(3-chloropropylamino)-2-methyl-3(2H)-pyridazinone and 3,4,5-trimethoxyphenyl ethyl amine and proceeding according to method c) with the difference that melting is carried out at 140° C. for 2.5 hours the desired compound is obtained with a yield of 34%. Rf =0.6.

reactant | 5-chloro-4-(3-chloropropylamino)-2-methyl-3(2H)-pyridazinone | ClC1=C(C(N(N=C1)C)=O)NCCCCl | C8H11Cl2N3O
reactant | 3,4,5-trimethoxyphenyl ethyl amine | COC=1C=C(C=C(C1OC)OC)NCC | C11H17NO3
product | 5Chloro-2-methyl-4-{3-[N-[2-(3,4,5-trimethoxyphenyl)-ethyl]-N-methylamino]-propylamino}-3(2H)-pyridazinone | yield of 34% | ClC1=C(C(N(N=C1)C)=O)NCCCN(C)CCC1=CC(=C(C(=C1)OC)OC)OC | C20H29ClN4O4
